US04207324
5 g of 1-benzyl-2-(p-dimethylaminophenyl)-4-chloro-5-cyanomethylimidazole was refluxed in a mixture of 25 ml concentrated hydrochloric acid, 25 ml water and 25 ml glacial acetic acid for 3 hours. The reaction mixture was concentrated to dryness under reduced pressure, the residue dissolved in 50 ml of water and the solution adjusted to pH 3 with sodium hydrogen carbonate. The resulting precipitate was recovered by filtration and recrystallized from aqueous ethanol. By the above procedure was obtained 4 g of 1-benzyl-2-(p-dimethylaminophenyl)-4-chloroimidazole-5-acetic acid as pale yellow needles, m.p. 170°-180° C.

reactant | 1-benzyl-2-(p-dimethylaminophenyl)-4-chloro-5-cyanomethylimidazole | 5 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC#N)Cl)C1=CC=C(C=C1)N(C)C | C20H19ClN4
reactant | water | 25 ml | O | H2O
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | 1-benzyl-2-(p-dimethylaminophenyl)-4-chloroimidazole-5-acetic acid | 4 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)O)Cl)C1=CC=C(C=C1)N(C)C | C20H20ClN3O2
